US05912246
8-Chloro-2-[[4-(4-fluorophenyl)-1-piperazinyl]methyl]-6-trifluoromethylimidazo[1,2-a]pyridine. Refer to Chart E
A mixture of 8-chloro-2-(chloromethyl)-6-trifluoromethylimidazo[1,2-α]pyridine (0.341 g), 1-(4-fluorophenyl)piperazine (Aldrich; 0.264 g), triethylamine (Aldrich; 0.21 mL), and ethylene glycol (2 mL) is stirred for 2.25 h at 80-85° C. After cooling, the mixture is partitioned between water and dichloromethane and the combined inorganic layers are washed with brine, dried with MgSO4, and concentrated under reduced pressure. The residue is chromatographed on silica gel using methanol/dichloromethane (2/98) and the appropriate fractions combined, concentrated, and crystallized from ether/hexane to give 0.339 g of the title compound; mp 91-97° C.; MS m/z 412, 414; IR (mineral oil) 1322, 1161, 1153, 1512, 1171 cm-1 ; 1H NMR (CDCl3) δ2.76, 3.15, 3.87, 6.88, 6.96, 7.41, 7.75, 8.41.

reactant | 8-chloro-2-(chloromethyl)-6-trifluoromethylimidazo[1,2-α]pyridine | 0.341 g | ClC=1C=2N(C=C(C1)C(F)(F)F)C=C(N2)CCl | C9H5Cl2F3N2
reactant | 1-(4-fluorophenyl)piperazine | 0.264 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | triethylamine | 0.21 mL | C(C)N(CC)CC | C6H15N
solvent | ethylene glycol | 2 mL | C(CO)O | C2H6O2
product | 8-Chloro-2-[[4-(4-fluorophenyl)-1-piperazinyl]methyl]-6-trifluoromethylimidazo[1,2-a]pyridine | 0.339 g | ClC=1C=2N(C=C(C1)C(F)(F)F)C=C(N2)CN2CCN(CC2)C2=CC=C(C=C2)F | C19H17ClF4N4
